### PR TITLE
Feat: add formalisation of Erdős Problem 358 and variants

### PR DESCRIPTION
**Pull request by Paul-Lez**
#510

### CODE REVIEW

File: FormalConjectures/ErdosProblems/358.lean [hunk 1]
```diff
@@ -0,0 +1,115 @@
...
+def intervalRepresentationsNonTrivial (A : ℕ → ℕ) (n : ℕ) :
+    Set (ℕ × ℕ) :=
+  {(u, v) | n = ∑ i ∈ Finset.Icc u v, A i ∧ u < v}
+
+/-
+Let $A=\{a_1 < \cdots\}$ be an infinite sequence of integers. Let $g(n)$ count the number of
+solutions to \[n=\sum_{u\leq i\leq v}a_i.\] such that the sum has at least two terms.
+-/
+noncomputable def g (A : ℕ → ℕ) (n : ℕ) : ℕ :=
+  Nat.card (intervalRepresentations A n)
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/358.lean]: Currently this is the same as `f`, that should be `intervalRepresentationsNonTrivial` I think?

File: FormalConjectures/ErdosProblems/358.lean [hunk 2]
```diff
@@ -0,0 +1,115 @@
...
+
+*Reference:* [erdosproblems.com/358](https://www.erdosproblems.com/358)
+-/
+
+namespace Erdos358
+
+open Filter
+
+/-
+Let $A=\{a_1 < \cdots\}$ be an infinite sequence of integers.
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/358.lean]: The formal definition does not require the strict monotonicity, so I'd remove it from the informal statement.

File: FormalConjectures/ErdosProblems/358.lean [hunk 3]
```diff
@@ -0,0 +1,115 @@
...
+-/
+@[category research open, AMS 5 11]
+theorem erdos_358.parts.i :
+    (∃ A, StrictMono A ∧ atTop.Tendsto (f A) atTop) ↔ answer(sorry) := by
+  sorry
+
+/--
+Let $A=\{a_1 < \cdots\}$ be an infinite sequence of integers. Let $f(n)$ count the number of
+solutions to \[n=\sum_{u\leq i\leq v}a_i.\]
+Or even where $f(n)\geq 2$ for all large $n$?
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/358.lean]:
```suggestion
Is there such an $A$ for which $f(n)\geq 2$ for all large $n$?
```

File: FormalConjectures/ErdosProblems/358.lean [hunk 4]
```diff
@@ -0,0 +1,115 @@
...
+When $A =\{a_1 < \cdots\}$ corresponds to the set of primes, it is conjectured that the set of
+numbers $n$ that have representations \[n=\sum_{u\leq i\leq v}a_i\] has positive upper density.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_358.variants.prime_set_density_representation :
+    0 < {n : ℕ | intervalRepresentations (Nat.nth Nat.Prime) n |>.Nonempty}.upperDensity := by
+  sorry
+
+/--
+It is conjecture that if $A =\{a_1 < \cdots\}$ and $g$ counts the number of representations
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/358.lean]:
```suggestion
It is conjectured that if $A =\{a_1 < \cdots\}$ and $g$ counts the number of representations
```

File: FormalConjectures/ErdosProblems/358.lean [hunk 5]
```diff
@@ -0,0 +1,113 @@
...
+  sorry
+
+/--
+It is conjectured that if $A =\{a_1 < \cdots\}$ and $g$ counts the number of representations
+\[n=\sum_{u\leq i\leq v}a_i\] such that the sum has at least two terms, then for all $n$ we have
+$1 \leq g(n)$ for sufficiently large $n$.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_358.variants.one_le :
+    (∃ A, StrictMono A ∧ ∀ᶠ n in atTop, 1 ≤ g A n) ↔ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/358.lean]: Since the informal statement is "It is conjectured that ..." I think we should not be using `answer(sorry)` here, similar to the previous variant.

File: FormalConjectures/ErdosProblems/358.lean [hunk 6]
```diff
@@ -0,0 +1,113 @@
...
+solutions to \[n=\sum_{u\leq i\leq v}a_i.\] such that the sum has at least two terms.
+-/
+noncomputable def g (A : ℕ → ℕ) (n : ℕ) : ℕ :=
+  Nat.card (intervalRepresentationsNonTrivial A n)
+
+/--
+When $A_n = n$, the function $f$ defined above counts the number of odd divisors of $n$.
+-/
+@[category high_school, AMS 5 11]
+theorem f_id : f id = (fun n ↦ (n.divisors.filter Odd).card) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/358.lean]:
```suggestion
theorem f_id : f id = fun n ↦ (n.divisors.filter Odd).card := by
```

**Comment by smmercuri** [comment]
LGTM!
